US04614830
The process of Example 1 was repeated substituting acetone for the acetonitrile as solvent. Starting with 26 g of 3,4-dihydroxyphenyl N-(tert-butyl)aminomethyl ketone hydrochloride there was obtained 33 g of 3,4-bis-(p-toluyloxy)phenyl N-(tert-butyl)aminomethyl ketone hydrochloride (64% yield) containing only a trace of tributylamine hydrochloride.

reactant | acetone | CC(=O)C | C3H6O
reactant | 3,4-dihydroxyphenyl N-(tert-butyl)aminomethyl ketone hydrochloride | 26 g | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)O)O
solvent | acetonitrile | C(C)#N | C2H3N
product | 3,4-bis-(p-toluyloxy)phenyl N-(tert-butyl)aminomethyl ketone hydrochloride | 33 g, 64% yield | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC1=CC=C(C=C1)C)OC1=CC=C(C=C1)C | InChI=1S/C26H29NO3.ClH/c1-18-6-11-21(12-7-18)29-24-15-10-20(23(28)17-27-26(3,4)5)16-25(24)30-22-13-8-19(2)9-14-22;/h6-16,27H,17H2,1-5H3;1H
